US09238631B2
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-({5-[3-(tosyloxy)propyl]pyridin-2-yl}-methyl)-L-glutamate
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate (25 mg, 0.05 mmol) was dissolved in dichloromethane (0.5 ml), and p-toluenesulfonic anhydride (Aldrich) (27 mg, 0.08 mmol), triethylamine (13 μl, 0.09 mmol) and 4-(dimethylamino)pyridine (0.3 mg, 2 μmol) were added at room temperature. The reaction was stirred for 2 h, then poured into 5 ml water. The mixture was extracted with dichloromethane (3×5 ml). The organic phases were concentrated in vacuo, and the crude product was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate | 0.05 mmol, 25 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C27H44N2O7
reactant | p-toluenesulfonic anhydride | 0.08 mmol, 27 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | triethylamine | 0.09 mmol, 13 μl | C(C)N(CC)CC | C6H15N
reactant | water | 5 ml | O | H2O
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2 μmol, 0.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-({5-[3-(tosyloxy)propyl]pyridin-2-yl}-methyl)-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCOS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C34H50N2O9S
